### PR TITLE
[Merged by Bors] - feat(Ideal.IsPrincipal): Prove that the equiv between principal ideals and associates is a `MulEquiv`

### PR DESCRIPTION
**Pull request by xroblot**
Define the `Submonoid` of principal ideals and prove that `associatesEquivIsPrincipal :  Associates R ≃ {I : Ideal R // Submodule.IsPrincipal I}` actually yields a `MulEquiv` between `Associates R` and this `Submonoid`. 

Put the result in a a new file `Ideal.IsPrincipal` and move `associatesEquivIsPrincipal` there.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by faenuccio — COMMENTED** [review]
LGTM!

File: Mathlib/RingTheory/Ideal/IsPrincipal.lean [hunk 1]
```diff
@@ -0,0 +1,89 @@
...
+    span {a} ∈ isPrincipalSubmonoid R := mem_isPrincipalSubmonoid_iff.mpr ⟨a, rfl⟩
+
+variable [IsDomain R]
+
+variable (R) in
+/-- The equivalence between `Associates R` and the principal ideals of `R` defined by sending the
+class of `x` to the principal ideal generated by `x`. -/
+noncomputable def associatesEquivIsPrincipal :
+    Associates R ≃ {I : Ideal R // IsPrincipal I} := by
+  refine Equiv.ofBijective (fun x ↦ ⟨span {Quot.out x}, ⟨Quot.out x, rfl⟩⟩)
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/IsPrincipal.lean:50]: Can the inverse be given by `Submodule.IsPrincipal.generator`?

File: Mathlib/RingTheory/Ideal/IsPrincipal.lean [hunk 2]
```diff
@@ -0,0 +1,89 @@
...
+variable {R : Type*} [CommRing R]
+
+namespace Ideal
+
+open Submodule
+
+variable (R) in
+/-- The principal ideals of `R` form a submonoid of `Ideal R`. -/
+def isPrincipalSubmonoid : Submonoid (Ideal R) where
+  carrier := { I | IsPrincipal I}
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/IsPrincipal.lean:31]:
```suggestion
  carrier := { I | IsPrincipal I }
```
(or maybe no spaces on both sides)

File: Mathlib/RingTheory/Ideal/IsPrincipal.lean [hunk 3]
```diff
@@ -0,0 +1,89 @@
...
+  · rw [Subtype.mk_eq_mk, span_singleton_eq_span_singleton] at h
+    exact Quotient.out_equiv_out.mp h
+  · obtain ⟨x, hx⟩ := hI
+    refine ⟨⟦x⟧, ?_⟩
+    rw [Subtype.mk_eq_mk, hx, submodule_span_eq, span_singleton_eq_span_singleton]
+    exact Associates.mk_quot_out x
+
+@[simp]
+theorem associatesEquivIsPrincipal_apply (x : R) :
+    associatesEquivIsPrincipal R ⟦x⟧ = span {x} := by
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/IsPrincipal.lean:61]:
```suggestion
theorem associatesEquivIsPrincipal_mk (x : R) :
    associatesEquivIsPrincipal R (.mk x) = span {x} := by
```

File: Mathlib/RingTheory/Ideal/IsPrincipal.lean (hunk 1 above)
Comment (xroblot) [reply Mathlib/RingTheory/Ideal/IsPrincipal.lean:50]: Yes. I didn't do it in the first place since it requires to import `Mathlib.RingTheory.PrincipalIdealDomain` but now that this is in its own file, I guess it's okay. I added also `associatesEquivIsPrincipal_symm_apply`. 

Thanks for the suggestion!

File: Mathlib/RingTheory/Ideal/IsPrincipal.lean [hunk 4]
```diff
@@ -0,0 +1,94 @@
+/-
+Copyright (c) 2024 Xavier Roblot. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Xavier Roblot
+-/
+import Mathlib.RingTheory.PrincipalIdealDomain
+
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Ideal/IsPrincipal.lean:7]:
```suggestion
import Mathlib.RingTheory.PrincipalIdealDomain

#align_import ring_theory.ideal.basic from "leanprover-community/mathlib"@"dc6c365e751e34d100e80fe6e314c3c3e0fd2988"
```

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/RingTheory/Ideal/IsPrincipal.lean (hunk 1 above)
Comment (erdOne) [reply Mathlib/RingTheory/Ideal/IsPrincipal.lean:50]: I meant something like
```
variable (R) in
/-- The equivalence between `Associates R` and the principal ideals of `R` defined by sending the
class of `x` to the principal ideal generated by `x`. -/
noncomputable def associatesEquivIsPrincipal :
    Associates R ≃ {I : Ideal R // IsPrincipal I} where
  toFun := Quotient.lift (fun x ↦ ⟨span {x}, x, rfl⟩)
    (fun a b e ↦ by simpa [span_singleton_eq_span_singleton])
  invFun I := .mk I.2.generator
  left_inv := Quotient.ind fun r ↦ by simpa using
    Ideal.span_singleton_eq_span_singleton.mp (@Ideal.span_singleton_generator _ _ _ ⟨_, rfl⟩)
  right_inv I := by simp
```

Comment (erdOne) [reply Mathlib/RingTheory/Ideal/IsPrincipal.lean:50]: This makes most of the lemmas below `rfl`.

Comment (xroblot) [reply Mathlib/RingTheory/Ideal/IsPrincipal.lean:50]: Oh, right. I went a bit overboard here.
